US04720543
Preparation of Mitomycin A (Compound A of FIG. 2)
TLC (ETOAC:Acetone) one spot Rf =0.91; UV (MeOH) 216 and 358 mu NMR(CDCl3); appearance of singlet at 4.04 corresponding to the 7-methoxy group which is not present in the parent compound mitomycin C.

reactant | Acetone | CC(=O)C | C3H6O
reactant | mitomycin C | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)N | C15H18N4O5
solvent | MeOH | CO | CH4O
product | Mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
